US06759420B1
d) 3-(4-Cyano-phenyl)-2-(R,S)-cyclohexyl-propionic acid
To a solution of 3-(4-cyanophenyl)-2-(R,S)-cyclohexyl-propionic acid t-butyl ester (8.2 g, 26.2 mmol) in dichloromethane (70 ml) was added trifluoroacetic acid (14.1 ml, 183.0 mmol) with stirring at room temperature. A gentle gas evolution ensued. After 69 h, solvent and excess trifluoroacetic acid were evaporated under reduced pressure. The solid was taken up in ethyl acetate and washed with water and brine, then dried (magnesium sulfate), filtered, and evaporated to dryness. The crude product was dissolved in methanol, treated with decolorizing carbon, filtered through celite, and concentrated. The resultant solid was recrystallized from toluene to afford the desired product as an off-white powder (6.83 g, 58%). mp.: 115-117° C., MS m/z: 258 (M+H)+.

reactant | 3-(4-cyanophenyl)-2-(R,S)-cyclohexyl-propionic acid t-butyl ester | 26.2 mmol, 8.2 g | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)C#N)C1CCCCC1)=O | C20H27NO2
reactant | trifluoroacetic acid | 183.0 mmol, 14.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-(4-Cyano-phenyl)-2-(R,S)-cyclohexyl-propionic acid | 6.83 g, 58% | C(#N)C1=CC=C(C=C1)CC(C(=O)O)C1CCCCC1 | C16H19NO2
